* Schematics Netlist *



V_Vgs         $N_0001 $N_0002 0.76
V_Vsd         $N_0001 0 3.3
M_M7         0 $N_0002 $N_0001 $N_0001 MODP  
+ L=1.4u  
+ W=1.4u         
