* Schematics Netlist *



M_M3         $N_0002 $N_0001 0 0 MODN  
+ L=1.4u  
+ W=1.4u         
V_Vds         $N_0002 0 0V
V_Vgs         $N_0001 0 0.76
