* Schematics Netlist *



M_MB         $N_0001 $N_0001 0 0 MODN  
+ L=1.4u  
+ W=1.4u         
M_M4         $N_0004 $N_0003 $N_0002 $N_0002 MODN  
+ L=1.4u  
+ W=1.4u         
M_M5         $N_0002 $N_0001 0 0 MODN  
+ L=1.4u  
+ W=1.4u         
V_Vdd         $N_0005 0 3.3
M_M1         $N_0006 $N_0006 $N_0005 $N_0005 MODP  
+ L=1.4u  
+ W=1.4u         
M_M2         $N_0004 $N_0006 $N_0005 $N_0005 MODP  
+ L=1.4u  
+ W=1.4u         
M_M3         $N_0006 $N_0007 $N_0002 $N_0002 MODN  
+ L=1.4u  
+ W=1.4u         
R_R         $N_0001 $N_0005  800k  
V_V18         $N_0007 0  
+SIN 0 1m 25 0 0 180
V_V19         $N_0003 0  
+SIN 0 1m 25 0 0 0
